US07795436B2
cis-6-Bromo-8-methyl-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid ethyl ester (68 mg, 0.2 mmol), benzylamine (64 mg, 0.6 mmol), NaOt-Bu (58 mg, 0.3 mmol) and (2-biphenyl)di-t-butylphosphine (11 mg, 0.018 mmol) were dissolved in toluene (5.0 mL), and the solution was degassed. To the solution was added tris(dibenzylideneacetone)dipalladium (11 mg, 0.006 mmol), and the reaction mixture was heated at 80° C. for 15 h under Ar. The reaction mixture was cooled to 20° C. and diluted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was filtered through short silica gel column (Hex/EtOAc 7/3) to obtain crude cis-6-benzylamino-8-methyl-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid ethyl ester (66 mg, 0.18 mmol)

reactant | cis-6-Bromo-8-methyl-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid ethyl ester | 0.2 mmol, 68 mg | C(C)OC(=O)N1CC[C@H]2CC3=C(C=C(C=C3[C@H]2C1)Br)C | C16H20BrNO2
reactant | benzylamine | 0.6 mmol, 64 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | NaOt-Bu | 0.3 mmol, 58 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.006 mmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | cis-6-benzylamino-8-methyl-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid ethyl ester | 0.18 mmol, 66 mg | C(C)OC(=O)N1CC[C@H]2CC3=C(C=C(C=C3[C@H]2C1)NCC1=CC=CC=C1)C | C23H28N2O2
